US08134004B2
Step A5C: 2-Methyl-N-[1-(2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)ethyl]propane-2-sulfinamide
A mixture of N-[1-(3,4-diaminophenyl)ethyl]-2-methylpropane-2-sulfinamide and CDI (569 mg, 3.51 mmol) in THF-DCM (10 ml-10 ml) was refluxed for 6 hours. After cooling to the room temperture, water (10 mL) was added to the mixture. The mixture was extracted with EtOAc (150 ml) and organic layer was washed with brine (30 ml), dried over sodium sulfate and concentrated. The residue was recrystallized from EtOAc to afford 430 mg (65%) of the title compound as a pale brown solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.11 (9H, s), 1.38 (3H, d, J=7.3 Hz), 4.37-4.28 (1H, m), 5.53 (1H, d, J=6.6 Hz), 6.84 (1H, d, J=7.3 Hz), 6.93 (1H, d, J=8.1 Hz), 6.99 (1H, s), 10.54 (1H, br.s), 10.60 (1H, br.s). MS (ESI) m/z 282 (M+H)+, 280 (M−H)−.

reactant | N-[1-(3,4-diaminophenyl)ethyl]-2-methylpropane-2-sulfinamide | NC=1C=C(C=CC1N)C(C)NS(=O)C(C)(C)C | C12H21N3OS
reactant | CDI | 3.51 mmol, 569 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | water | 10 mL | O | H2O
solvent | THF DCM | 10 ml-10 ml | C1CCOC1.C(Cl)Cl
product | 2-Methyl-N-[1-(2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)ethyl]propane-2-sulfinamide | 430 mg, 65% | CC(C)(C)S(=O)NC(C)C1=CC2=C(NC(N2)=O)C=C1 | C13H19N3O2S
